US05061720
1,3-Dihydro-1,3-dioxo-2H-isoindole-2-propanoic acid ethyl ester.
This compound was prepared according to the procedure used to prepare 1,3-dihydro-1,3-dioxo-2H-isoindoleoctanoic acid ethyl ester. Thus, a mixture of 100.0 g (0.55 mole) of 3-bromopropionic acid ethyl ester (99%, Aldrich) and 108.7 g (0.58 mole) of potassium phthalimide (98%, Aldrich) in 300 mL of dimethylformamide gave 59.4 g (44%) of crude title compound as an oily residue. A 3.0 g sample of this oil was purified by high-pressure liquid chromatography (Waters Associates Prep LC/System 500A; PrepPak® 500 silica; ethyl acetate-hexanes, 1:10). Fractions containing title compound were combined and the solvents evaporated under reduced pressure to give 2.3 g (77% recovery) of a pale-yellow oil.

reactant | 3-bromopropionic acid ethyl ester | 0.55 mole, 100.0 g | C(C)OC(CCBr)=O | C5H9BrO2
reactant | potassium phthalimide | 0.58 mole, 108.7 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
product | 1,3-Dihydro-1,3-dioxo-2H-isoindole-2-propanoic acid ethyl ester | 59.4 g, 44% | C(C)OC(CCN1C(C2=CC=CC=C2C1=O)=O)=O | C13H13NO4
